Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness, weight gain
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
This a ___ year-old woman with a PMH of decompensated alcoholic 
cirrhosis (SBP, ascites, HE), non-variceal UGIB, s/p RNYGB, 
prior J-tube, current G-tube for enteral feedings, abdominal 
wall abscess and EC fistula at prior J-tube insertion site, 
recurrent ileus/SBO, and recent admission (___) for 
abdominal pain who now presents with weight gain and weakness, 
found to have acute on chronic anemia.

The patient states that she has experienced a 10 pound weight 
gain since ___ of last week. She notes most of the weight 
in her lower legs/thighs and denies worsening abdominal 
distention. Her torsemide had been increased from 20 mg QD to 60 
mg QD at that time though she continued to gain weight. She 
denies any dietary indiscretion. Her appetite has not changed. 
She notes intermittent abdominal pain which she says is chronic.

On ___ evening, the patient developed acute onset weakness 
when walking up the stairs. She explains that her "legs just 
gave out" when about ___ way up the stairs in her home. Family 
members were able to help her the rest of the way up the stairs. 
No fall. She denies associated shortness of breath, chest pain, 
palpitations but does endorse lightheadedness. 

The patient specifically denies melena, hematemesis, nausea, 
vomiting, diarrhea, fevers, chills, night sweats, dysuria, 
hematuria, hematochezia. 

In the ED initial vitals:  T 97.1, HR 81, BPO 103/42, RR 18, 99% 
on RA

Exam notable for: Abdomen diffusely tender. Left lower extremity 
swollen.

Labs notable for:

CBC: 4.9 >- 6.9/21.5 -< 70

Chem7: 137 | 95 | 23
       ---------------< 79 (AGap 17)
       3.7 | 25 | 0.9

LFTs: ALT 11, AST 45, AP 120, Tbili 2.3, Alb 2.7, Lip 24

Coags: ___: 18.9  PTT: 37.4 INR: 1.7 

Imaging notable for:  

CXR: 
1. Low lung volumes. 
2. Opacification of the left lung base may represent atelectasis 
or 
consolidation depending upon the clinical setting. 
3. Unchanged moderate cardiomegaly. No pulmonary edema, pleural 
effusion, or pneumothorax. 

CT ABDOMEN/PELVIS:
1. Cirrhosis with findings or portal hypertension and small 
amount of ascites and unchanged trace bilateral pleural 
effusions. 
2. Chronic partial small bowel obstruction with improved small 
bowel 
distention compared to prior. 
3. Mild right-sided hydronephrosis and proximal hydroureter 
appears slightly improved compared to prior. 
4. Unchanged position of a left upper quadrant approach catheter 
which terminates in the subcutaneous tissues at this location. 
No surrounding fluid collection. 

RIGHT ___ DOPPLER:
No evidence of deep venous thrombosis in the right lower 
extremity veins.

Consults:

HEPATOLOGY: "No ascites on bedside ultrasound. Hgb 6.9, but not 
too far from baselin. Can transfuse 1 unit of PRBC. No signs of 
UGIB or LGIB, but will need to be continued to be monitored for 
this.

Patient was given:  

OxyCODONE (Immediate Release) 5 mg 
HYDROmorphone (Dilaudid) 2 mg 
Subcut Methylnaltrexone 12 mg 
Ciprofloxacin HCl 500 mg 
Escitalopram Oxalate 20 mg 
FoLIC Acid 1 mg 
HYDROmorphone (Dilaudid) 2 mg 
LevETIRAcetam 1000 mg 
Metoclopramide 5 mg  
Omeprazole 40 mg 
Thiamine 100 mg 
Torsemide 60 mg   
Rifaximin 550 mg  
Midodrine 15 mg  
Lactulose 30 mL    
Potassium Chloride 40 mEq 
Magnesium Sulfate 4 gm 
Furosemide 50 mg 

ED Course: Patient received home medications and was diuresed 
with 100 mg IV Lasix in addition to home torsemide 60 mg once. 
She was transfused 1 U pRBC. 

On arrival to the floor, patient appears sleepy but comfortable. 
She endorses the above history and complains of total body 
weakness. She denies pain. 

 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy ___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy ___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
Per prior discharge summary
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION EXAM:
===============
VS: T 97.9 BP 99/60 HR 79 RR 18 Sa 96% RA 
GENERAL: NAD, appears fatigued and somnolent 
HEENT: AT/NC, EOMI, PERRL, mildly icteric sclera, pink 
conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, ___ systolic murmur heard best at ___ but 
also appreciated at ___ and apex, no gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Obese, mildly distended, diffusely TTP, no 
rebound/guarding, no hepatosplenomegaly. G-tube site c/d/i, RUQ 
drain c/d/i
EXTREMITIES: Left ___ with ___ pitting edema up to the knee. RLE 
with trace edema. Both ___ exquisitely TTP. No cyanosis, 
clubbing.  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, naming intact, able to state ___ backwards without 
error. CN exam unremarkable. Strength ___ throughout limited by 
pain, no asterixis. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM:
===============
VS: T 98.7, BP 102/56, HR 69, RR 18, Sa 97% Ra  
GENERAL: NAD, supine in bed
HEENT: AT/NC, EOMI, PERRL, mildly icteric sclera, pink
conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, harsh ___ systolic murmur heard best at ___ 
but also appreciated at ___ and apex, no gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Obese, mildly distended, mildly TTP, no 
rebound/guarding, no hepatosplenomegaly. G-tube site c/d/i 
without purulence, LUQ drain c/d/I, draining tan colored 
purulence
EXTREMITIES: Left ___ with trace pitting edema up to the knee. 
RLE without appreciable edema. No cyanosis, clubbing. 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, naming intact, able to state ___ backwards without 
error. CN exam unremarkable. Strength ___ throughout. No 
asterixis. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:30PM   GLUCOSE-117* UREA N-19 CREAT-0.8 SODIUM-134* 
POTASSIUM-3.4* CHLORIDE-93* TOTAL CO2-28 ANION GAP-13
___ 09:30PM   CALCIUM-8.6 PHOSPHATE-3.8 MAGNESIUM-2.2
___ 09:30PM   WBC-4.9 RBC-2.24* HGB-7.8* HCT-23.2* MCV-104* 
MCH-34.8* MCHC-33.6 RDW-20.3* RDWSD-74.4*
___ 09:30PM   PLT COUNT-65*
___ 10:45AM   GLUCOSE-124* UREA N-21* CREAT-0.9 SODIUM-136 
POTASSIUM-3.5 CHLORIDE-95* TOTAL CO2-27 ANION GAP-14
___ 10:45AM   ALT(SGPT)-10 AST(SGOT)-42* LD(LDH)-156 ALK 
PHOS-116* TOT BILI-2.5*
___ 10:45AM   CALCIUM-8.3* PHOSPHATE-3.7 MAGNESIUM-1.5*
___ 10:45AM   WBC-4.9 RBC-1.79* HGB-6.5* HCT-19.7* MCV-110* 
MCH-36.3* MCHC-33.0 RDW-19.0* RDWSD-75.3*
___ 10:45AM   PLT COUNT-63*
___ 10:45AM   ___ PTT-37.4* ___
___ 11:25PM   WBC-4.9 RBC-1.93* HGB-6.9* HCT-21.5* MCV-111* 
MCH-35.8* MCHC-32.1 RDW-19.0* RDWSD-76.8*
___ 11:25PM   NEUTS-60.8 ___ MONOS-15.1* EOS-0.8* 
BASOS-0.2 IM ___ AbsNeut-2.98 AbsLymp-1.11* AbsMono-0.74 
AbsEos-0.04 AbsBaso-0.01
___ 11:25PM   PLT COUNT-70*
___ 10:54PM   LACTATE-2.0
___ 10:44PM   GLUCOSE-79 UREA N-23* CREAT-0.9 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-95* TOTAL CO2-25 ANION GAP-17
___ 10:44PM   estGFR-Using this
___ 10:44PM   ALT(SGPT)-11 AST(SGOT)-45* ALK PHOS-120* TOT 
BILI-2.3*
___ 10:44PM   LIPASE-24
___ 10:44PM   cTropnT-<0.01
___ 10:44PM   ALBUMIN-2.7* CALCIUM-8.3* PHOSPHATE-3.4 
MAGNESIUM-1.7
___ 10:44PM   ___ TO  PTT-UNABLE TO  ___ TO 
R
___ 07:20PM URINE  HOURS-RANDOM
___ 07:20PM URINE  UHOLD-HOLD
___ 07:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD*
___ 07:20PM URINE  RBC-<1 WBC-11* BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 07:20PM URINE  MUCOUS-RARE*

INTERVAL LABS:
==============
___ 06:04AM BLOOD VitB12-1660* Folate->20

DISCHARGE LABS:
===============
___ 06:13AM BLOOD WBC-4.9 RBC-2.22* Hgb-7.9* Hct-24.1* 
MCV-109* MCH-35.6* MCHC-32.8 RDW-20.4* RDWSD-80.1* Plt Ct-85*
___ 06:13AM BLOOD ___ PTT-34.2 ___
___ 06:13AM BLOOD Glucose-119* UreaN-20 Creat-0.7 Na-137 
K-3.6 Cl-96 HCO3-30 AnGap-11
___ 06:13AM BLOOD ALT-13 AST-57* LD(LDH)-156 AlkPhos-119* 
TotBili-2.0*
___ 06:13AM BLOOD Calcium-8.0* Phos-3.0 Mg-2.1

IMAGING:
========
CXR ___:
  
1. Low lung volumes. 
2. Opacification of the left lung base may represent atelectasis 
or 
consolidation depending upon the clinical setting. 
3. Unchanged moderate cardiomegaly.  No pulmonary edema, pleural 
effusion, or pneumothorax. 

CT ABDOMEN/PELVIS WITH CONTRAST ___:

1. Cirrhosis with findings or portal hypertension and small 
amount of ascites and unchanged trace bilateral pleural 
effusions. 
2. Chronic partial small bowel obstruction with improved small 
bowel 
distention compared to prior. 
3. Mild right-sided hydronephrosis and proximal hydroureter 
appears slightly improved compared to prior. 
4. Unchanged position of a left upper quadrant approach catheter 
which 
terminates in the subcutaneous tissues at this location.  No 
surrounding fluid collection. 

UNILATERAL LOWER EXTREMITY DOPPLER ULTRASOUND ___:

No evidence of deep venous thrombosis in the right lower 
extremity veins.

TTE ___:

CONCLUSION:
The left atrial volume index is moderately increased. The right 
atrium is moderately enlarged. The estimated right atrial 
pressure is ___ mmHg. There is normal left ventricular wall 
thickness with a moderately increased/dilated cavity. There is 
normal regional left ventricular systolic function. Global left 
ventricular systolic function is normal. Quantitative biplane 
left ventricular ejection fraction is 65 %.
Left ventricular cardiac index is normal (>2.5 L/min/m2) There 
is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Mildly dilated right 
ventricular cavity with normal
free wall motion. The aortic sinus diameter is normal with 
normal ascending aorta diameter. The aortic arch diameter is 
normal. There is no evidence for an aortic arch coarctation. The 
aortic valve leaflets (3)
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral leaflets appear 
structurally normal with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation.
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
A left pleural
effusion is present.

IMPRESSION: Good image quality. No valvular pathology or 
pathologic flow identified. Mild biventricular cavity dilation 
with normal regional/global biventricular systolic function. 
Mild pulmonary artery systolic hypertension.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This a ___ year-old woman with a PMH of decompensated alcoholic 
cirrhosis (SBP, ascites, HE), non-variceal UGIB, s/p RNYGB, 
prior J-tube, current G-tube for enteral feedings, abdominal 
wall abscess and EC fistula at prior J-tube insertion site, 
recurrent ileus/SBO, and recent admission (___) for 
abdominal pain
who presented with weight gain and weakness, found to have acute 
on chronic anemia. Diuresed with IV Lasix gtt to dry weight.

ACUTE ISSUES:
=============
# Volume Overload
# Weight Gain
Patient with reported 10 pound weight gain prior to admission. 
She had been inconsistent diuretic dose, with torsemide 
increased to 60 mg daily immediately prior to her admission. CT 
abdomen performed in the ED on this admission revealed chronic 
partial small bowel obstruction with improved small bowel 
distention compared to prior CT. Minimal ascites on CT and none 
on ultrasound. TTE from ___ showed borderline mild LV cavity 
dilation with normal LV function, borderline hyperdynamic. 
Etiology of fluid overload likely multifactorial in the setting 
of hypoalbuminemia and known cirrhosis. Patient was diuresed 
with IV Lasix drip at 15 mg/hour then transitioned to oral 
regimen of torsemide 60 mg daily. Discharge weight: 224.2 pounds 
down from 238.91 on admission. 

# Acute on Chronic Macrocytic Anemia
# Weakness
Hgb nadir 6.5 on admission. Anemia is chronic and baseline is in 
the mid 7s typically. Macrocytic, likely related to prior 
history of RNYGB. Vitamin B12 and folate both WNL this 
admission. She received 1 U pRBC transfusion and required no 
further blood transfusions. Weakness improved with diuresis. Hgb 
7.9 on day of discharge. 

# Nutrition
# Tube Feeds
Chronic tube feeding dependence via G-tube. Continued home TF 
regimen of Osmolite 1.5 @ 80 mL/hr x 12 hours, flush 50 mL q6h.

# EtOH Cirrhosis
# Coagulopathy
# Thrombocytopenia 
Previously complicated by hepatic encephalopathy, SBP, and 
ascites. Followed by Dr. ___ B cirrhosis. MELD 17 
on admission. No evidence of ascites on imaging. Patient was 
continued on lactulose, rifaximin, ciprofloxacin, and midodrine. 
Platelets stable at 85 on discharge. INR 1.6 on discharge, which 
is her baseline. 

CHRONIC ISSUES:
===============
# Abdominal Pain/Distention
Continued home tramadol 50 mg PO BID and hydropmorphone 2 mg 
daily though monitored mental status closely. No HE this 
admission though patient was somnolent at times. Continues 
metoclopramide and simethicone as well. 

# Epileptiform seizures
Continued home Keppra 1000 mg PO BID.

# GERD
Continued home omeprazole 40 mg daily.

TRANSITIONAL ISSUES:
====================
# Patient noted to have some purulence at G tube insertion site. 
Evaluated by transplant surgery who felt that everything looked 
stable and some purulence is to be expected. Please continue to 
monitor in outpatient setting.

# Patient transitioned to oral torsemide 60 mg daily upon 
discharge. Patient may require further uptitration of oral 
torsemide in the outpatient setting. 

# TTE this admission: Compared with the prior TTE of (images 
reviewed) of ___, there is now biventricular cavity 
enlargement. 

NEW MEDICATIONS:
- Multivitamins W/minerals 1 TAB PO/NG DAILY 

CHANGED MEDICATIONS:
- Torsemide increased from 20 mg PO daily to 60 mg PO daily

HELD MEDICATIONS: NONE

# Discharge weight: 224.2 pounds
# Discharge Cr: 0.7
# Discharge diuretic regimen: Torsemide 60 mg PO QD

# CONTACT: ___ 
Relationship: Mother, Father 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
2. Ciprofloxacin HCl 500 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Lactulose 30 mL PO Q6H 
6. LevETIRAcetam Oral Solution 1000 mg PO BID 
7. Metoclopramide 5 mg PO Q6H 
8. Midodrine 15 mg PO TID 
9. Multivitamins 1 TAB PO DAILY 
10. Neutra-Phos 2 PKT PO TID 
11. Omeprazole 40 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Rifaximin 550 mg PO BID 
14. Simethicone 40-80 mg PO QID:PRN bloating 
15. Thiamine 100 mg PO DAILY 
16. Torsemide 60 mg PO DAILY 
17. TraMADol 50 mg PO BID 
18. Vitamin D ___ UNIT PO 1X/WEEK (___) 
19. Senna 17.2 mg PO BID 
20. Linzess (linaCLOtide) 145 mcg oral DAILY 
21. Methylnaltrexone 12 mg Subcut ONCE 
22. HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
2.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*0 
3.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
4.  Ciprofloxacin HCl 500 mg PO DAILY  
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate  
8.  Lactulose 30 mL PO Q6H  
9.  LevETIRAcetam Oral Solution 1000 mg PO BID  
10.  Linzess (linaCLOtide) 145 mcg oral DAILY  
11.  Methylnaltrexone 12 mg Subcut ONCE  
12.  Metoclopramide 5 mg PO Q6H  
13.  Midodrine 15 mg PO TID  
14.  Multivitamins 1 TAB PO DAILY  
15.  Neutra-Phos 2 PKT PO TID  
16.  Omeprazole 40 mg PO DAILY  
17.  Polyethylene Glycol 17 g PO DAILY  
18.  Rifaximin 550 mg PO BID  
19.  Senna 17.2 mg PO BID  
20.  Simethicone 40-80 mg PO QID:PRN bloating  
21.  Thiamine 100 mg PO DAILY  
22.  TraMADol 50 mg PO BID  
23.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Alcoholic cirrhosis
Acute on Chronic Macrocytic Anemia
Thrombocytopenia 
Fluid overload 

SECONDARY:
==========
Epileptiform seizures
Gastroesophageal reflux disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WERE YOU IN THE HOSPITAL?
- You were in the hospital because of weakness and because you 
gained some weight in your legs.

WHAT HAPPENED IN THE HOSPITAL?
- You had a CT scan of your abdomen to make sure that there was 
no fluid in the belly.
- You were given an IV medication to help remove extra fluid 
from your lower extremities. 
- Your leg swelling improved significantly and you were deemed 
safe to go home.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- Take all of your medications as prescribed
- Follow up with your medications as outlined below. 
- Weigh yourself every day and call your doctor if you notice 
weight gain of more than 3 pounds.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___